* source ASD
R_R1         N00245 N00223  350k TC=0,0 
R_R2         N00223 N00238  50 TC=0,0 
D_D1         N00245 N00223 D1N4002 
D_D2         N00245 N00285 D1N4002 
X_X1         N00238 N00285 0 2N1595
C_C1         0 N00245  0.5u  TC=0,0 
V_V1         N00223 0  
+SIN 0 150 50 0 0 0
